US05958942
iii) Synthesis of 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
To a solution of 1.73 g (2.71 mmol) of 2-ethyl-3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine in 15 ml of chloroform was added dropwise 0.80 ml (5.42 mmol) of iodotrimethylsilane at room temperature. The reaction mixture was stirred for 10 minutes, which was poured into ice-water, followed by neutralization with a saturated aqueous solution of sodium hydrogencarbonate. This solution was extracted with 100 ml of ethyl acetate. The organic layer was washed with 50 ml of 1.0N aqueous solution of sodium thiosulfate, then with 50 ml of a saturated aqueous saline solution. The organic layer was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 603 mg of the desired compound (52.3%, pale yellow solid).

reactant | 2-ethyl-3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.71 mmol, 1.73 g | C(C)C=1N=C2N(C(=CC=C2)CN(CCCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)C1C(C(Cl)(Cl)Cl)=O | C23H30Cl3F3N4O5S
reactant | iodotrimethylsilane | 5.42 mmol, 0.80 ml | I[Si](C)(C)C | C3H9ISi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 603 mg, 52.3% | C(C)C=1N=C2C=CC=C3CN(C(C1N23)=O)CCCCCNS(=O)(=O)C(F)(F)F | C17H21F3N4O3S
